US07700599B2
6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid (D14) (20.1 g, 0.0862 mol) was dissolved in 1,4-dioxane (400 mL) and thionyl chloride (28.5 mL, 4.972 mmol) added cautiously. The mixture was heated slowly to reflux and stirred for 4.5 h. The reaction mixture was allowed to cool and concentrated. Dioxane (200 mL) was added and the solution was re-concentrated (×2) to give crude 6-[(4-fluorophenyl)oxy]-3-pyridinecarbonyl chloride which was re-dissolved in DCM (250 mL). This was added dropwise to a solution of 1,1-dimethylethyl (2S)-2-methyl-4-{[4-(methylamino)phenyl]methyl}-1-piperazinecarboxylate (D3) (25 g, 0.0783 mol, prepared in three different batches according to method D3B and consolidated) and triethylamine (14 mL, 0.1004 mol) in DCM (250 mL) cooled in an ice/water bath over 30 mins. The reaction mixture was warmed to room temperature and stirred for ˜15 h. The reaction mixture was washed with 2M NaOH solution (2×200 mL) and brine, then dried over MgSO4 and concentrated in vacuo to give a brown foam/gum. The crude product was purified by chromatography to give the title compound as a colourless foam (32.39 g).

reactant | 6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid | 0.0862 mol, 20.1 g | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)O | C12H8FNO3
reactant | thionyl chloride | 4.972 mmol, 28.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 6-[(4-fluorophenyl)oxy]-3-pyridinecarbonyl chloride | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)Cl | C12H7ClFNO2
